US08138189B2
Step 4: (4-Chloromethyl-pyrazol-1-yl)-acetic acid methyl ester
(4-Hydroxymethyl-pyrazol-1-yl)-acetic acid methyl ester (194 mg) was dissolved in 1,2-dichloroethane (2 mL) and thionylchloride (0.7 mL). The solution was refluxed for 2.5 hours. The reaction was cooled and concentrated in vacuo. The residue was poured into ice/water and basified with sat. Na2CO3 to pH 11. The aqueous phase was then extracted with ethyl acetate and the organic layer was washed with brine, dried over Na2SO4, filtered and the solvent was evaporated. The residue was purified by flash chromatography (silica gel, heptane:ethyl acetate=100:0 to 50:50) to give the title compound as a colorless oil (81 mg, 36%). MS (EI)=188.0 [M+].

reactant | (4-Hydroxymethyl-pyrazol-1-yl)-acetic acid methyl ester | 194 mg | COC(CN1N=CC(=C1)CO)=O | C7H10N2O3
reactant | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | thionylchloride | 0.7 mL | S(=O)(Cl)Cl | Cl2OS
product | (4-Chloromethyl-pyrazol-1-yl)-acetic acid methyl ester | 81 mg, 36% | COC(CN1N=CC(=C1)CCl)=O | C7H9ClN2O2
